US07973051B2
iv) 4-Methoxymethyl-5-methylsulfanyl-thiazol-2-ylamine
(4-Methoxymethyl-5-methylsulfanyl-thiazol-2-yl)-carbamic acid tert-butyl ester (380 mg, 1.3 mmol) was dissolved in 4 M HCl/1,4-dioxane (7.2 mL, 28.8 mmol) and stirred at 50° C. for 4 hours. The reaction was concentrated under reduced pressure and the residue was dissolved in ethyl acetate and extracted with a half saturated sodium hydrogen carbonate solution. The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound as a yellow solid. (238 mg, 86%)

reactant | (4-Methoxymethyl-5-methylsulfanyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 1.3 mmol, 380 mg | C(C)(C)(C)OC(NC=1SC(=C(N1)COC)SC)=O | C11H18N2O3S2
reactant | HCl 1,4-dioxane | 28.8 mmol, 4 M, 7.2 mL | Cl.O1CCOCC1
product | 4-Methoxymethyl-5-methylsulfanyl-thiazol-2-ylamine | COCC=1N=C(SC1SC)N | C6H10N2OS2
